US07425634B2
(24a) (1-methyl-2,6,7-trioxabicyclo[2.2.2]oct-4-yl)methanol
A mixture of pentaerythritol (15 g, 110 mmol), triethyl orthoacetate (20.2 ml, 110 mmol), and p-toluenesulfonic acid monohydrate (947 mg, 5.5 mmol) was stirred at 100° C. for 30 minutes. The temperature of the mixture was further raised to 130° C. and the mixture was stirred for 30 minutes. To the reaction mixture, triethylamine (1.53 ml, 11 mmol) was added and the reaction mixture was concentrated. The residue was purified by silica gel column chromatography (elution solvent: heptane/ethyl acetate) to obtain the title compound (8.5 g, yield: 48.2%) as a light yellow solid.

reactant | pentaerythritol | 110 mmol, 15 g | OCC(CO)(CO)CO | C5H12O4
reactant | triethyl orthoacetate | 110 mmol, 20.2 ml | C(C)(OCC)(OCC)OCC | C8H18O3
reactant | p-toluenesulfonic acid monohydrate | 5.5 mmol, 947 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | triethylamine | 11 mmol, 1.53 ml | C(C)N(CC)CC | C6H15N
product | (1-methyl-2,6,7-trioxabicyclo[2.2.2]oct-4-yl)methanol | 8.5 g, yield: 48.2% | CC12OCC(CO1)(CO2)CO | C7H12O4
